US05239084
A solution of the Grignard reagent prepared from 344 mg of magnesium and 2.27 g of 2-bromotoluene in 15 mL of tetrahydrofuran was added dropwise to a suspension of 2 g of (±)-1-dimethylamino-1-(4-bromophenyl)-ethane and 158 g of tetrakisphenylphosphine-palladium in 10 mL of tetrahydrofuran. The addition was effected at room temperature and under an argon atmosphere. After completion of the addition the mixture was heated to boiling for a further 5 hours and then evaporated under reduced pressure. The residue was then treated with 50 mL of ether and 50 mL of saturated ammonium chloride solution and the aqueous phase was separated. The aqueous phase was extracted twice with 50 mL of ether. The combined organic extracts were washed with saturated sodium chloride solution, dried over magnesium sulphate and evaporated. The residue was purified by chromatography on silica gel while eluting with methylene chloride/methanol 9:1. There was obtained 2.04 g (96%) of (±)-4'-[1-(dimethylamino)ethyl]-2-methylbiphenyl as a yellow oil.

reactant | magnesium | 344 mg | [Mg] | Mg
reactant | 2-bromotoluene | 2.27 g | BrC1=C(C=CC=C1)C | C7H7Br
reactant | (±)-1-dimethylamino-1-(4-bromophenyl)-ethane | 2 g | CN(C(C)C1=CC=C(C=C1)Br)C | C10H14BrN
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | tetrakisphenylphosphine palladium | 158 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | (±)-4'-[1-(dimethylamino)ethyl]-2-methylbiphenyl | 2.04 g, 96% | CN(C(C)C1=CC=C(C=C1)C1=C(C=CC=C1)C)C | C17H21N
